US08802688B2
Step 2. 3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid hydrochloride
To a solution of methyl 3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carboxylate (2.90 g, 11.4 mmol) in 1,4-dioxane (30 mL) was added 6 N aqueous hydrochloric acid (18.9 mL, 114 mmol). The reaction was heated to 90° C. and stirred overnight. The reaction was cooled to room temperature and concentrated to dryness to afford the title compound (2.76 g, quantitative). 1H NMR (400 MHz, DMSO-d6, δ): 12.31 (br. s., 1 H), 8.91 (d, J=1.8 Hz, 1 H), 8.37 (s, 1 H), 8.14 (d, J=1.6 Hz, 1 H).

reactant | methyl 3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carboxylate | 11.4 mmol, 2.90 g | BrC1=CNC=2C1=NC=C(C2)C(=O)OC | C9H7BrN2O2
reactant | hydrochloric acid | 114 mmol, 6 N, 18.9 mL | Cl | ClH
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 3-bromo-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid hydrochloride | 2.76 g | Cl.BrC1=CNC=2C1=NC=C(C2)C(=O)O | InChI=1S/C8H5BrN2O2.ClH/c9-5-3-10-6-1-4(8(12)13)2-11-7(5)6;/h1-3,10H,(H,12,13);1H
